US07732618B2
e.) (5-Benzylamino-2-propyl-benzoimidazol-1-yl)-acetic acid tert-butyl ester.
Sodium triacetoxyborohydride (1.8 g, 8.4 mmol) was added to a solution of benzaldehyde (0.68 mL, 6.5 mmol) and (5-amino-2-propyl-benzoimidazol-1-yl)-acetic acid tert-butyl ester (1.8 g, 6.5 mmol) in DCE (15 mL), and stirred overnight at room temperature. The reaction solution was diluted with H2O. The organic solution was washed with brine, dried over MgSO4, and concentrated to afford the subtitle compound that was used without further purification. MS calculated for C23H29N3O2+H: 380, observed: 380.

reactant | Sodium triacetoxyborohydride | 8.4 mmol, 1.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | benzaldehyde | 6.5 mmol, 0.68 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | (5-amino-2-propyl-benzoimidazol-1-yl)-acetic acid tert-butyl ester | 6.5 mmol, 1.8 g | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)N)CCC)=O | C16H23N3O2
solvent | DCE | 15 mL | ClCCCl | C2H4Cl2
solvent | H2O | O | H2O
product | (5-Benzylamino-2-propyl-benzoimidazol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC(=C2)NCC2=CC=CC=C2)CCC)=O | C23H29N3O2
